### PR TITLE
[Merged by Bors] - feat: Context-free languages are closed under reversal

### PR DESCRIPTION
**Pull request by madvorak**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 1]
```diff
@@ -187,3 +190,76 @@ lemma Derives.append_right {v w : List (Symbol T g.NT)}
...
 
 end ContextFreeGrammar
+
+/-- Context-free languages are defined by context-free grammars. -/
+def Language.IsContextFree (L : Language T) : Prop :=
+  ∃ g : ContextFreeGrammar.{uT} T, g.language = L
+
+section closure_reversal
+
+private def reverseRule {N : Type uN} (r : ContextFreeRule T N) : ContextFreeRule T N :=
```
Comment (urkud) [inline Mathlib/Computability/ContextFreeGrammar.lean:200]: Why private (same below)? IMHO, a public `ContextFreeGrammar.reverse` with a theorem that it gives the reverse language is stronger than the existence theorem.
```suggestion
protected def ContextFreeRule.reverse {N : Type uN} (r : ContextFreeRule T N) : ContextFreeRule T N :=
```

**Comment by urkud** [comment]
BTW, I created `t-grammar` topic. If you want to update the label and/or the description, then please ping me.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:200]: I don't want to expose implementation. What I want to export out of this file is that "reversal can be done".

Comment (urkud) [reply Mathlib/Computability/ContextFreeGrammar.lean:200]: Why? People may want to prove other theorems about this operation and its interaction with other operations on context free grammars.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 2]
```diff
@@ -187,3 +190,76 @@ lemma Derives.append_right {v w : List (Symbol T g.NT)}
...
+  ⟨r.input, r.output.reverse⟩
+
+private def reverseGrammar (g : ContextFreeGrammar T) : ContextFreeGrammar T :=
+  ⟨g.NT, g.initial, g.rules.map reverseRule⟩
+
+private lemma reverseRule_reverseRule {N : Type uN} (r : ContextFreeRule T N) :
+    reverseRule (reverseRule r) = r := by
```
Comment (urkud) [inline Mathlib/Computability/ContextFreeGrammar.lean:207]: You can use `Function.Involutive` here and `Function.Involutive.list_map` below.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Computability/ContextFreeGrammar.lean:200]: Then let's wait for someone who uses this part of the library... My impression about `Mathlib` is that the only reason for a lemma to be private is that nobody will ever need it (e.g., because it is an auxiliary lemma for a stronger statement). Since we have no backwards compatibility promises (yet), it doesn't even force us to maintain this API in the future (unless someone will actually use it).

BTW, the private version applies to all universes while the public version only works for the same universe.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 2 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean]: Something like that?

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Computability/ContextFreeGrammar.lean:200]: How it is now.

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:200]: What would I have to do for everything to apply to all universes?

Comment (urkud) [reply Mathlib/Computability/ContextFreeGrammar.lean:200]: You have a predicate that says that there exists a context-free grammar in the same universe that defines this language. You can turn it into a universe-polymorphic predicate (and possibly prove some theorems using `UnivLE`) or make the API behind the proof public (i.e., add public definition/lemmas `ContextFreeRule.reverse`, `ContextFreeGrammar.reverse`, `Derives.reverse`, `ContextFreeGrammar.language_reverse`) and let the (possibly, empty set of) users who care about universe-polymorphism here handle it as they want.

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean]: I refactored it in such a way that everything can be public now.

**Comment by madvorak** [comment]
I know about places where `foo` could be written instead of `Bar.foo` but please don't suggest these changes — too many times there is both `Bar.foo` and `Baz.foo` (and possibly more); therefore, even it was unambiguous for Lean, it would be really bad for readers to write `foo` only.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 3]
```diff
@@ -187,3 +190,73 @@ lemma Derives.append_right {v w : List (Symbol T g.NT)}
...
+/-- Grammar for a reversed language. -/
+def ContextFreeGrammar.reverse (g : ContextFreeGrammar T) : ContextFreeGrammar T :=
+  ⟨g.NT, g.initial, g.rules.map .reverse⟩
+
+lemma ContextFreeRule.reverse_reverse {N : Type uN} :
+    Function.Involutive (@ContextFreeRule.reverse T N) := by
+  intro x
+  simp [ContextFreeRule.reverse]
+
+lemma ContextFreeGrammar.reverse_reverse :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Computability/ContextFreeGrammar.lean:213]: The change to use `Function.Involutive` is good, but now these lemmas should be called `reverse_involutive`

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 4]
```diff
@@ -187,3 +190,73 @@ lemma Derives.append_right {v w : List (Symbol T g.NT)}
...
+    rw [List.reverse_singleton]
+    apply ContextFreeGrammar.Derives.refl
+  | tail _ orig ih =>
+    apply ContextFreeGrammar.Derives.trans_produces ih
+    obtain ⟨r, rin, rewr⟩ := orig
+    simp only [ContextFreeGrammar.reverse, List.mem_map] at rin
+    obtain ⟨r₀, rin₀, rfl⟩ := rin
+    use r₀
+    constructor
+    · exact rin₀
```
Comment (Ruben-VandeVelde) [inline Mathlib/Computability/ContextFreeGrammar.lean:232]: Optional:
```suggestion
    refine ⟨r₀, rin₀, ?_⟩
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 5]
```diff
@@ -187,3 +190,73 @@ lemma Derives.append_right {v w : List (Symbol T g.NT)}
...
+    apply Set.eq_of_subset_of_subset
+    · apply ContextFreeGrammar.reverse_mem_language_of_mem_reverse_language
+    · intro w hwg
+      obtain ⟨g₀, rfl⟩ : ∃ g₀ : ContextFreeGrammar T, g = g₀.reverse
+      · use g.reverse
+        rw [ContextFreeGrammar.reverse_reverse]
+      rw [ContextFreeGrammar.reverse_reverse]
+      have finished_modulo_reverses := g₀.reverse_mem_language_of_mem_reverse_language hwg
+      rw [List.reverse_reverse] at finished_modulo_reverses
+      exact finished_modulo_reverses
```
Comment (Ruben-VandeVelde) [inline Mathlib/Computability/ContextFreeGrammar.lean:260]: I would add the intermediate
```lean
lemma ContextFreeGrammar.mem_reverse_language_iff_reverse_mem_language (g : ContextFreeGrammar T)
    {w : List T} :
    w ∈ g.reverse.language ↔ w.reverse ∈ g.language := by
  refine ⟨reverse_mem_language_of_mem_reverse_language _, fun h => ?_⟩
  rw [← ContextFreeGrammar.reverse_reverse g] at h
  rw [← List.reverse_reverse w]
  exact g.reverse.reverse_mem_language_of_mem_reverse_language h
```
and then
```suggestion
    · intro w hwg
      rwa [ContextFreeGrammar.mem_reverse_language_iff_reverse_mem_language, ← mem_reverse]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm with these changes

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
